US08357707B2
Stage 44.4: 3,3,3-Trifluoro-2,2-dimethyl-propionamide
Oxalyl chloride (140.8 mmol) was added dropwise to a solution of 3,3,3-trifluoro-2,2-dimethyl-propionic acid [889940-13-0] (128 mmol) in CH2Cl2 (128 mL) at 0° C. Added a few dr DMF until gas evolution was observed and then continued stirring for 30 min. After warming to rt and stirring overnight, the reaction mixture was concentrated (40° C., 00 mbar). The residue was dissolved in THF (128 mL), cooled to 0° C. and then slowly treated with a solution of concentrated aqueous ammonia (64 mL). After stirring at 0° C. for 30 min and then at rt for 4 h, the reaction mixture was concentrated to half its volume to give a thick white suspension. After filtering and drying, the title compound was obtained as a white solid. ESI-MS: [M+H]+ 156.

reactant | Oxalyl chloride | 140.8 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,3,3-trifluoro-2,2-dimethyl-propionic acid | 128 mmol | FC(C(C(=O)O)(C)C)(F)F | C5H7F3O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 128 mL | C(Cl)Cl | CH2Cl2
product | 3,3,3-Trifluoro-2,2-dimethyl-propionamide | FC(C(C(=O)N)(C)C)(F)F | C5H8F3NO
